US06465467B1
(2S)-Methyl-1-[3-(2-phenoxyethoxy)-2-pyrazinyl]piperazine, Hydrochloride
The title compound was prepared starting from 2-phenoxy-1-ethanol and 3-chloro-2-[4-tert-butoxycarbonyl-(2S)-methyl-1-piperazinyl]pyrazine (prepared according to the procedure of Example 172, Step 2, with the exception that (2S)-methylpiperazine was substituted for (2R)-methylpiperazine). MS m/z 315 (M+H)+. Yield 68%; mp 162-163° C. Anal. (C17H22N4O2.HCl) C, H, N.

reactant | 2-phenoxy-1-ethanol | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | 3-chloro-2-[4-tert-butoxycarbonyl-(2S)-methyl-1-piperazinyl]pyrazine | ClC=1C(=NC=CN1)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C | C14H21ClN4O2
product | (2S)-Methyl-1-[3-(2-phenoxyethoxy)-2-pyrazinyl]piperazine, Hydrochloride | Yield 68% | Cl.C[C@@H]1N(CCNC1)C1=NC=CN=C1OCCOC1=CC=CC=C1 | InChI=1S/C17H22N4O2.ClH/c1-14-13-18-9-10-21(14)16-17(20-8-7-19-16)23-12-11-22-15-5-3-2-4-6-15;/h2-8,14,18H,9-13H2,1H3;1H/t14-;/m0./s1
